US04021479
4-(4'-Acetamido-3'-bromo-4-biphenylyl)-butyric acid by method A
7.5 ml of water, 17.5 ml of concentrated hydrochloric acid, 50 ml of toluene, 30 ml of dioxane and 5 gm of 4-(4'-acetamido-3'-bromo-4-biphenylyl)-4-oxo-butyric acid were added to 10 gm of amalgamated zinc. This reaction mixture was refluxed for 4 hours. After standing overnight at room temperature, the precipitated crystals were collected and recrystallized from ethyl acetate. Yield: 35% of theory; m.p. 155°-156° C. Melting point of the cyclohexylamine salt: 179°-180° C. (precipitated from ethyl acetate).

reactant | water | 7.5 ml | O | H2O
reactant | hydrochloric acid | 17.5 ml | Cl | ClH
reactant | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
reactant | 4-(4'-acetamido-3'-bromo-4-biphenylyl)-4-oxo-butyric acid | 5 gm | C(C)(=O)NC1=C(C=C(C=C1)C1=CC=C(C=C1)C(CCC(=O)O)=O)Br | C18H16BrNO4
catalyst | zinc | 10 gm | [Zn] | Zn
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
product | 4-(4'-Acetamido-3'-bromo-4-biphenylyl)-butyric acid | Yield: 35% | C(C)(=O)NC1=C(C=C(C=C1)C1=CC=C(C=C1)CCCC(=O)O)Br | C18H18BrNO3
